US04072696
1.5 G. of 1-(3-methoxycarbonyl-2-thioureido)-2-nitro-4-(prop-2-en-1-ylthio)benzene is treated for four hours in a refluxing mixture of 160 ml. methanol and 40 ml. water with 4 g. iron powder (added in two portions) and 1 g. ferrous sulfate. The mixture is filtered, and the filtrate concentrated. The residue is dissolved in chloroform and washed with water, and then the solvent is evaporated affording 1-(3-methoxycarbonyl-2-thioureido)-2-amino-4-(prop-2-en-1-yl-thio)benzene.

reactant | 1-(3-methoxycarbonyl-2-thioureido)-2-nitro-4-(prop-2-en-1-ylthio)benzene | COC(=O)NC(NC1=C(C=C(C=C1)SCC=C)[N+](=O)[O-])=S | C12H13N3O4S2
reactant | methanol | CO | CH4O
catalyst | iron | [Fe] | Fe
solvent | water | O | H2O
product | 1-(3-methoxycarbonyl-2-thioureido)-2-amino-4-(prop-2-en-1-yl-thio)benzene | COC(=O)NC(NC1=C(C=C(C=C1)SCC=C)N)=S | C12H15N3O2S2
